US05849743
c) Preparation of 6-amino-7-nitroquinoxaline-2,3(1H,4H)-dione
A solution of 41 g (0.13 mol) of 6-trifluoroacetamido-7-nitroquinoxaline -2,3(1H,4H)-dione in 300 ml of ethanol and 700 ml of 3 molar hydrochloric acid was refluxed for 3 hours. After the mixture had cooled, the precipitated crude product was filtered off with suction and washed with acetone. Yield: 84%. Melting point >330° C.

reactant | 6-trifluoroacetamido-7-nitroquinoxaline -2,3(1H,4H)-dione | 0.13 mol, 41 g | FC(C(=O)NC=1C=C2NC(C(NC2=CC1[N+](=O)[O-])=O)=O)(F)F | C10H5F3N4O5
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 3 molar, 700 ml | Cl | ClH
product | 6-amino-7-nitroquinoxaline-2,3(1H,4H)-dione | Yield: 84% | NC=1C=C2NC(C(NC2=CC1[N+](=O)[O-])=O)=O | C8H6N4O4
